US09227976B2
Step 2: N-(2-acetyl-4-iodo-5-phenyl-pyrazol-3-yl)acetamide
A suspension of N-(2-acetyl-5-phenyl-pyrazol-3-yl)acetamide (25.1 g, 0.103 mol), iodic acid (4.5 g, 0.026 mol) and iodine (15.7 g, 0.062 mol) in ethanol (250 mL) was heated at 50° C. for 3 h and cooled to room temperature. The reaction mixture was concentrated in vacuo and partitioned between CH2Cl2 and 2 M Na2S2O3 aq. solution. The layers were separated and the organic washed with brine, dried (phase separator cartridge), and concentrated in vacuo to provide a mixture of the title compound and starting material (2.2:1, 30.3 g). The mixture was put in reaction again using iodic acid (1.6 g, 9.6 mmol) and iodine (9.7 g, 0.038 mol) in ethanol (250 mL) under the same conditions, to provide the title compound as a solid (31.9 g).

reactant | N-(2-acetyl-5-phenyl-pyrazol-3-yl)acetamide | 0.103 mol, 25.1 g | C(C)(=O)N1N=C(C=C1NC(C)=O)C1=CC=CC=C1 | C13H13N3O2
reactant | iodic acid | 0.026 mol, 4.5 g | I(=O)(=O)O | HIO3
reactant | iodine | 0.062 mol, 15.7 g | II | I2
solvent | ethanol | 250 mL | C(C)O | C2H6O
product | N-(2-acetyl-4-iodo-5-phenyl-pyrazol-3-yl)acetamide | C(C)(=O)N1N=C(C(=C1NC(C)=O)I)C1=CC=CC=C1 | C13H12IN3O2
